US04416879
A mixture of 5-benzhydrylthio-1-(2-propynyl)-1H-tetrazole (0.35 g), anisole (0.6 g) and trifluoroacetic acid (3.4 ml) was stirred for 30 minutes at 20° C. and then allowed to stand for 45 minutes. The reaction mixture was filtered and the filter cake was washed with isopropyl ether. The filtrate and the washing were combined and evaporated under reduced pressure. After the addition of the residue to a saturated aqueous solution of sodium bicarbonate precooled to 10° C., the resulting mixture was adjusted to pH 8.5 with 2 N aqueous solution of sodium hydroxide and washed with ethyl acetate. The washed aqueous layer was adjusted to pH 2.5 with 10% hydrochloric acid under ice-cooling and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated to give 1-(2-propynyl)-1H-tetrazole-5-thiol (95 mg), which is decomposed from 60° to 71° C.

reactant | 5-benzhydrylthio-1-(2-propynyl)-1H-tetrazole | 0.35 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)SC1=NN=NN1CC#C | C17H14N4S
reactant | anisole | 0.6 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 3.4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(2-propynyl)-1H-tetrazole-5-thiol | 95 mg | C(C#C)N1N=NN=C1S | C4H4N4S
